US05880130
A mixture of 3-nitrophenol (6.95 g), ethyl bromoacetate (8.35 g) and potassium carbonate (6.9 g) in dry NHP (50 ml) was stirred at room temperature for 48 hours. The reaction mixture was partitioned between water (300 ml) and diethyl ether (75 ml). The organic layer was separated, washed with water, brine and dried (MgSO4). The residue was filtered through silica and eluted with a 3:2 mixture of hexane and ethyl acetate to give ethyl 3-nitrophenoxyacetate as a viscous oil in 98% yield;

reactant | 3-nitrophenol | 6.95 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | ethyl bromoacetate | 8.35 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 6.9 g | C([O-])([O-])=O.[K+].[K+]
product | ethyl 3-nitrophenoxyacetate | 98% yield | [N+](=O)([O-])C=1C=C(OCC(=O)OCC)C=CC1 | C10H11NO5
